US07064142B2
Production of 2-(3-cyanophenyl)-4-(4-fluorophenyl)-4-(1,5-naphthyridin-3-yl)-2-imidazoline
To a solution of 1-(4-fluorophenyl)-1-(1,5-naphthyridin-3-yl)-1,2-ethanediamine (17 mg) in methanol (1 mL) was added 3-cyanobenzeneimidic acid methyl ester (23 mg), and the mixture was stirred at room temperature for 19 hrs. To the reaction mixture was added chloroform and insolubles were removed by filtration, followed by concentration of the filtrate in vacuo. The residue was purified by preparative thin-layer chromatography (100% ethyl acetate) to give the objective compound (8.0 mg).

reactant | 1-(4-fluorophenyl)-1-(1,5-naphthyridin-3-yl)-1,2-ethanediamine | 17 mg | FC1=CC=C(C=C1)C(CN)(N)C=1C=NC2=CC=CN=C2C1 | C16H15FN4
reactant | 3-cyanobenzeneimidic acid methyl ester | 23 mg | COC(=N)C1=CC(=CC=C1)C#N | C9H8N2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 1 mL | CO | CH4O
product | 2-(3-cyanophenyl)-4-(4-fluorophenyl)-4-(1,5-naphthyridin-3-yl)-2-imidazoline | 8.0 mg | C(#N)C=1C=C(C=CC1)C=1NCC(N1)(C=1C=NC2=CC=CN=C2C1)C1=CC=C(C=C1)F | C24H16FN5
